US07514567B2
(R)-3′-[5-(Thiophen-2-yl)thiophen-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
The title compound was prepared by a method analogous to that described in Example 4 from (R)-3′-(5-bromothiophen-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one and 2-(tri-n-butylstannyl)thiophene. The solid obtained from flash chromatography was further purified by reverse phase HPLC on a C18 column using a gradient of 5-45% acetonitrile/water (each solvent containing 0.1% trifluoroacetic acid as a buffer) as the eluant. The product-containing fractions were evaporated. The residue was partitioned between saturated aqueous potassium carbonate and chloroform and the chloroform layer was dried (magnesium sulfate), filtered and evaporated to give the title compound as an off-white solid (100 mg), m/z 347 (MH+).

reactant | (R)-3′-(5-bromothiophen-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | BrC1=CC=C(S1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C13H15BrN2O2S
reactant | 2-(tri-n-butylstannyl)thiophene | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
product | (R)-3′-[5-(Thiophen-2-yl)thiophen-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 100 mg | S1C(=CC=C1)C1=CC=C(S1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C17H18N2O2S2
